US05916786
(1R,5S)-(+)-7-oxabicyclo[3.3.0]octan-6-one (1 gram) was dissolved in 5 ml of absolute ethanol, followed by the addition of 0.5 gram of gaseous ammonia. The solution was kept in a stoppered flask, and the progress of the reaction was followed by thin layer chromatography (eluent dichloromethane/methanol 20:1). After the reaction was judged complete, the ethanol was evaporated and the resulting residue redissolved in ethyl acetate. Ammonia was removed by extraction with 1% HCl, and the ethyl acetate solution was dried over MgSO4, filtered, and rotary evaporated to leave 0.7 grams of (1S,2R)-2-hydroxymethyl-1-cydopentanecarboxamide.

reactant | (1R,5S)-(+)-7-oxabicyclo[3.3.0]octan-6-one | 1 gram | [C@H]12CCC[C@@H]2C(OC1)=O | C7H10O2
reactant | ammonia | 0.5 gram | N | H3N
reactant | dichloromethane methanol | ClCCl.CO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (1S,2R)-2-hydroxymethyl-1-cydopentanecarboxamide | 0.7 grams | OC[C@H]1[C@H](CCC1)C(=O)N | C7H13NO2
